US08378095B2
A mixture of ethyl 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxylate (0.080 g, 0.15 mmol), indole-4-boronic acid (0.048 g, 0.30 mmol), Pd(dppf)2Cl2 (0.006 g, 0.007 mmol) and 1M aq. sodium carbonate (0.31 ml, 0.31 mmol) in acetonitrile (2.5 ml) was heated in the microwave at 150° C. for 15 minutes. The reaction mixture was diluted with DCM and washed with 1M NaOH. The organic phase was passed through a MP-SH cartridge, dried over MgSO4 and the solvent removed in vacuo to afford tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-(1H-indol-4-yl)oxazol-5-yl)phenyl)piperazine-1-carboxylate which was used without further purification. LCMS (1) Rt: 2.61 min; m/z (ES+) 517.

reactant | ethyl 2-iodo-5-(4-methoxyphenyl)oxazole-4-carboxylate | 0.15 mmol, 0.080 g | IC=1OC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)OC | C13H12INO4
reactant | indole-4-boronic acid | 0.30 mmol, 0.048 g | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
reactant | sodium carbonate | 0.31 mmol, 1M, 0.31 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 2.5 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)2Cl2 | 0.007 mmol, 0.006 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(4-(4-(ethoxycarbonyl)-2-(1H-indol-4-yl)oxazol-5-yl)phenyl)piperazine-1-carboxylate | C(C)OC(=O)C=1N=C(OC1C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=C2C=CNC2=CC=C1 | C29H32N4O5
